US09227978B2
tert-Butyl-4-(2-(5-(2-Chlorophenyl)-4-chloro-2-methoxyphenylamino)acetyl)piperazine-1-carboxylate
To a solution of tert-butyl 4-(2-(4-chloro-5-iodo-2-methoxyphenylamino)acetyl)piperazine-1-carboxylate (200 mg, 0.4 mmol) and 2-chlorophenylboronic acid (69 mg, 0.44 mmol) in 1,4-dioxane (10 mL) and water (2 mL), Pd(PPh3)4 (40 mg, 0.035 mmol) and Na2CO3 (212 mg, 2 mmol) were added. The mixture was stirred at 80° C. for 16 h. The mixture was allowed to cool to room temperature and concentrated in vacuo. The residue was purified by flash column chromatography on silica gel (petroleum ether/ethyl acetate=4:1) to afford the desire product (150 mg, 76% yield).

reactant | tert-butyl 4-(2-(4-chloro-5-iodo-2-methoxyphenylamino)acetyl)piperazine-1-carboxylate | 0.4 mmol, 200 mg | ClC1=CC(=C(C=C1I)NCC(=O)N1CCN(CC1)C(=O)OC(C)(C)C)OC | C18H25ClIN3O4
reactant | 2-chlorophenylboronic acid | 0.44 mmol, 69 mg | ClC1=C(C=CC=C1)B(O)O | C6H6BClO2
reactant | Na2CO3 | 2 mmol, 212 mg | C(=O)([O-])[O-].[Na+].[Na+]
solvent | 1,4-dioxane | 10 mL | O1CCOCC1 | C4H8O2
solvent | water | 2 mL | O | H2O
catalyst | Pd(PPh3)4 | 0.035 mmol, 40 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | tert-Butyl-4-(2-(5-(2-Chlorophenyl)-4-chloro-2-methoxyphenylamino)acetyl)piperazine-1-carboxylate | 150 mg, 76% yield | C(C)(C)(C)OC(=O)N1CCN(CC1)C(CNC1=C(C=C(C(=C1)C1=C(C=CC=C1)Cl)Cl)OC)=O | C24H29Cl2N3O4
